US09085576B2
A solution of methyl 5-((tert-butoxycarbonyl)(methyl)amino)pyrimidine-2-carboxylate (1.16 g, 4.35 mmol) in THF (15 mL) was treated with a 1.0 M aqueous solution of LiOH (4.6 mL, 4.6 mmol) and the solution was stirred at ambient temperature for 16 h. The mixture was concentrated and lyophilized from 1,4-dioxane to give lithium 5-((tert-butoxycarbonyl)(methyl)amino)pyrimidine-2-carboxylate (1.16 g, 100% yield) as a white powder. 1H NMR (400 MHz, DMSO-d6): δ 8.63 (s, 2H), 3.24 (s, 3H), 1.43 (s, 9H).

reactant | methyl 5-((tert-butoxycarbonyl)(methyl)amino)pyrimidine-2-carboxylate | 4.35 mmol, 1.16 g | C(C)(C)(C)OC(=O)N(C=1C=NC(=NC1)C(=O)OC)C | C12H17N3O4
reactant | LiOH | 4.6 mmol, 4.6 mL | [Li+].[OH-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | lithium 5-((tert-butoxycarbonyl)(methyl)amino)pyrimidine-2-carboxylate | 1.16 g, 100% yield | C(C)(C)(C)OC(=O)N(C=1C=NC(=NC1)C(=O)[O-])C.[Li+] | InChI=1S/C11H15N3O4.Li/c1-11(2,3)18-10(17)14(4)7-5-12-8(9(15)16)13-6-7;/h5-6H,1-4H3,(H,15,16);/q;+1/p-1
